US05378689
21(a) (3R, 5S)-5-[(1S)-1-{N-[2(R)-Benzyl-3-(morpholinocarbonyl)propionyl]-3-(4-thiazolyl)-L-alanyl}amino-2-cyclohexylethyl]-3-methyldihydrofuran-2(3H)-one
A mixture of 1.7 g (3.64 mmole) of (3R, 5S)-5-{(1S)-1-[N-(t-butoxycarbonyl)-3-(4-thiazolyl)-L-alanyl ]amino-2-cyclohexylethyl}-3-methyldihydrofuran-2(3H)-one (prepared as described in Preparation 25) and 20 ml of a 4N solution of hydrogen chloride in dioxane was stirred at room temperature for 60 minutes. At the end of this time, the solvent was removed by distillation under reduced pressure. Diethyl ether was added to the residue, and the resulting mixture was concentrated by evaporation under reduced pressure. This operation was repeated three times, in total. After the final residue had been dried under reduced pressure for 8 hours, the dried materials were suspended in 30 ml of anhydrous tetrahydrofuran. 1.11 g (4.0 mmole) of 2(R)-benzyl-3-(morpholinocarbonyl)propionic acid were then added to the suspension, after which 0.71 ml (4.37 mmole) of 95% diethyl cyanophosphonate and 2.0 ml (14.56 mmole) of triethylamine were added to the resulting mixture, whilst ice-cooling and under an atmosphere of nitrogen. The mixture was then stirred at room temperature for 15 hours, after which the solvent was removed by distillation under reduced pressure. The resulting residue was purified by medium pressure column chromatography through silica gel (using ethyl acetate as the eluent), to afford 1.43 g of the title compound as a colourless amorphous product.

reactant | (3R, 5S)-5-{(1S)-1-[N-(t-butoxycarbonyl)-3-(4-thiazolyl)-L-alanyl ]amino-2-cyclohexylethyl}-3-methyldihydrofuran-2(3H)-one | 3.64 mmole, 1.7 g | C(C)(C)(C)OC(=O)N[C@@H](CC=1N=CSC1)C(=O)N[C@@H](CC1CCCCC1)[C@@H]1C[C@H](C(O1)=O)C | C24H37N3O5S
reactant | hydrogen chloride | Cl | ClH
reactant | 2(R)-benzyl-3-(morpholinocarbonyl)propionic acid | 4.0 mmole, 1.11 g | C(C1=CC=CC=C1)[C@@H](C(=O)O)CC(=O)N1CCOCC1 | C15H19NO4
reactant | diethyl cyanophosphonate | 4.37 mmole, 0.71 ml | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | triethylamine | 14.56 mmole, 2.0 ml | C(C)N(CC)CC | C6H15N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (3R, 5S)-5-[(1S)-1-{N-[2(R)-Benzyl-3-(morpholinocarbonyl)propionyl]-3-(4-thiazolyl)-L-alanyl}amino-2-cyclohexylethyl]-3-methyldihydrofuran-2(3H)-one | 1.43 g | C(C1=CC=CC=C1)[C@@H](C(=O)N[C@@H](CC=1N=CSC1)C(=O)N[C@@H](CC1CCCCC1)[C@@H]1C[C@H](C(O1)=O)C)CC(=O)N1CCOCC1 | C34H46N4O6S
